US08486979B2
5-(5-methylpyrazin-2-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according to the procedure of Example 8 using N′-hydroxynicotinimidamide (Aldrich) and 5-methylpyrazine-2-carboxylic acid (Aldrich). 1H NMR (300 MHz, CD3OD) δ 2.71 (s, 3 H), 7.66 (ddd, J=8.0, 5.1, 0.8 Hz, 1 H), 8.59 (dt, J=7.9, 1.8 Hz, 1 H), 8.74-8.78 (m, 2 H), 9.33 (dd, J=2.0, 0.8 Hz, 1 H), 9.40 (d, J=1.2 Hz, 1 H) ppm; MS (DCI/NH3) m/z 240 (M+H)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | 5-methylpyrazine-2-carboxylic acid | CC=1N=CC(=NC1)C(=O)O | C6H6N2O2
reactant | NH3 | N | H3N
product | 5-(5-methylpyrazin-2-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | CC=1N=CC(=NC1)C1=NC(=NO1)C=1C=NC=CC1 | C12H9N5O
